US07074798B2
d) 7-Allyl-3-methyl-8-(piperazin-1-yl)-3,7-dihydropurine-2,6-dione
Trifluoroacetic acid (294 μl) was added dropwise to a solution of 4-(7-allyl-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl)piperazine-1-carboxylic acid tert-butyl ester (150 mg) in methylene chloride (2 ml), and the reaction mixture was stirred at room temperature for 1 hour and 30 minutes. The solvent was removed by distillation at reduced pressure from the reaction mixture. The residue was subjected to azeotropic distillation with toluene, and then was purified by silica gel column chromatography to give 85 mg of the title compound from a fraction eluted with methanol-ethyl acetate (1:10).

reactant | Trifluoroacetic acid | 294 μl | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(7-allyl-3-methyl-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-yl)piperazine-1-carboxylic acid tert-butyl ester | 150 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C(NC(C2N1CC=C)=O)=O)C | C18H26N6O4
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 7-Allyl-3-methyl-8-(piperazin-1-yl)-3,7-dihydropurine-2,6-dione | 85 mg | C(C=C)N1C(=NC=2N(C(NC(C12)=O)=O)C)N1CCNCC1 | C13H18N6O2
